data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2380,2645,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]#[C:13][C:14]([C:15]([CH3:16])=[O:17])([C:18]([CH3:19])=[O:20])[CH2:21][CH2:22][CH2:23][CH2:24]1.[CH3:25][C:26](=[O:27])[C:28]([CH3:29])=[O+:30][C-:31]([CH3:32])[CH3:33]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]2=[C:13]([C:14]([C:15]([CH3:16])=[O:17])([C:18]([CH3:19])=[O:20])[CH2:21][CH2:22][CH2:23][CH2:24]1)[C:28]([C:26]([CH3:25])=[O:27])([CH3:29])[O:30][C:31]2([CH3:32])[CH3:33],water,298.15,23.64248928645401,-44.69961047057046
4761,5436,[CH3:6][NH:7][C:8](=[O:9])[C-:10]([NH+:11]=[C:12]([C:13]#[N:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:10]([C:8]([NH:7][CH3:6])=[O:9])([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[NH:11][C:12]1([C:13]#[N:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,51.62945087549185,50.07010964659528
2256,2501,[CH3:16][O:17][C:18](=[O:19])[C-:20]([N+:21]#[C:22][C:23]([CH3:24])=[O:25])[C:26]([CH3:27])=[O:28].[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]#[C:8][C:9]([F:10])([F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]2=[C:8]([C:9]([F:10])([F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:22]([C:23]([CH3:24])=[O:25])=[N:21][C:20]2([C:18]([O:17][CH3:16])=[O:19])[C:26]([CH3:27])=[O:28],water,298.15,16.05568876257519,-51.42351488449645
4419,5051,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]#[N+:16][C-:17]([C:18]([CH3:19])=[O:20])[C:21]([CH3:22])=[O:23]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])=[N:16][C:17]2([C:18]([CH3:19])=[O:20])[C:21]([CH3:22])=[O:23],water,298.15,12.20361305455338,-20.68768996947848
2984,3336,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH:5]#[N+:6][C-:7]([C:8]([CH3:9])=[O:10])[C:11]([CH3:12])=[O:13]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:7]([C:8]([CH3:9])=[O:10])([C:11]([CH3:12])=[O:13])[N:6]=[CH:5]1,water,298.15,16.275928974180133,-32.02132575479104
2510,2789,[CH3:15][C:16](=[O:17])[C:18](=[O+:19][C-:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[C:33]([CH3:34])=[O:35].[Cl:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[Cl:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[C:18]([C:16]([CH3:15])=[O:17])([C:33]([CH3:34])=[O:35])[O:19][C:20]2([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,29.6188321976928,-14.718802153788223
1099,1197,[CH3:15][C:16](=[O:17])[N:18]=[N+:19]([CH3:20])[N-:21][C:22]([CH3:23])=[O:24].[CH3:1][O:2][C:3](=[O:4])[CH:5]=[C:6]([C:7](=[O:8])[O:9][CH3:10])[C:11](=[O:12])[O:13][CH3:14]>>[CH3:1][O:2][C:3](=[O:4])[CH:5]1[C:6]([C:7](=[O:8])[O:9][CH3:10])([C:11](=[O:12])[O:13][CH3:14])[N:21]([C:22]([CH3:23])=[O:24])[N:19]([CH3:20])[N:18]1[C:16]([CH3:15])=[O:17],water,298.15,24.69119159317119,-17.10911172463097
4318,4939,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([CH3:15])[N+:16]#[C:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:17]([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)=[N:16][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[CH3:15],water,298.15,13.540004393741734,-36.6663937992848
2460,2728,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]#[C:13][C:14]([C:15]#[N:16])([C:17]#[N:18])[CH2:19][CH2:20][CH2:21][CH2:22]1.[CH3:23][NH:24][C:25](=[O:26])[C-:27]([O+:28]=[C:29]([CH3:30])[C:31]#[N:32])[C:33]([CH3:34])=[O:35]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]2=[C:13]([C:14]([C:15]#[N:16])([C:17]#[N:18])[CH2:19][CH2:20][CH2:21][CH2:22]1)[C:29]([CH3:30])([C:31]#[N:32])[O:28][C:27]2([C:25]([NH:24][CH3:23])=[O:26])[C:33]([CH3:34])=[O:35],water,298.15,15.233437276426288,-60.9420186970837
5195,5894,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15]([C:16](=[O:17])[NH:18][CH3:19])=[N+:20]([CH3:21])[C-:22]([C:23](=[O:24])[O:25][CH3:26])[C:27](=[O:28])[O:29][CH3:30]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:16](=[O:17])[NH:18][CH3:19])[N:20]([CH3:21])[C:22]2([C:23](=[O:24])[O:25][CH3:26])[C:27](=[O:28])[O:29][CH3:30],water,298.15,28.11557680918656,-28.94230429048505
3344,3795,[CH3:9][C:10](=[O:11])[C-:12]([CH3:13])[NH+:14]=[C:15]([CH3:16])[CH3:17].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:12]([C:10]([CH3:9])=[O:11])([CH3:13])[NH:14][C:15]1([CH3:16])[CH3:17],water,298.15,21.75111347236964,-12.342584420668071
